US06239131B1
Preparation of 1-methoxymethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine hydrochloride
10% Palladium carbon (2.0 g) was added to 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (14.2 g) suspended in methanol (200 ml), and the resultant mixture was stirred for two hours under hydrogen atmosphere (3 kg/cm2) at room temperature. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1), to thereby obtain a yellow oily substance. The substance was dissolved in ether, and 4N hydrochloric acid-dioxane (10 ml) was added thereto. Crystals so precipitated were collected by filtration, to thereby obtain 8.28 g of the title compound as a white solid (yield: 69.3%).

reactant | 1-methoxymethyl-2-oxo-3-propylaminocarbonyloxyimino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 14.2 g | COCN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)=NOC(=O)NCCC)=O | C21H24N4O4
reactant | hydrochloric acid dioxane | 4N, 10 ml | Cl.O1CCOCC1
solvent | methanol | 200 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
catalyst | Palladium carbon | 2.0 g | [C].[Pd]
product | 1-methoxymethyl-2-oxo-3-amino-5-phenyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine hydrochloride | 8.28 g, yield: 69.3% | Cl.COCN1C(C(CN(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | InChI=1S/C17H19N3O2.ClH/c1-22-12-20-16-10-6-5-9-15(16)19(11-14(18)17(20)21)13-7-3-2-4-8-13;/h2-10,14H,11-12,18H2,1H3;1H
